US05143923
N-[3-(1-(6-Chloro-1,2-benzisoxazol-3-yl)-4-piperidinyl)propyl]-1,2-benzisothiazole-3-carboxamide hydrochloride
A mixture of N-(3-chloropropyl)-1,2-benzisothiazole-3-carboxamide (5.0 g), 1-(6-chloro-1,2-benzisoxazol-3-yl)piperidine hydrochloride (5.40 g), potassium carbonate (5.40 g), and sodium iodide (100 mg) in dry N-methylpyrrolidinone (100 ml), was heated to 180° C., with stirring, under nitrogen. After 36 hr, the reaction mixture was allowed to cool to room temperature and partitioned between ethyl acetate/water. The organic phase was washed with water, dried over anhydrous magnesium sulfate, filtered, and the filtrate concentrated in vacuo. The residue was chromatographed on silica using ethyl acetate as the eluent. The appropriate fractions were collected and concentrated. The filtrate was treated with hydrogen chloride in ether. The salt was recrystallized from methanol/dichloromethane/ether to provide 2.87 g (29.4%) of product, mp 221°-223° C.

reactant | N-(3-chloropropyl)-1,2-benzisothiazole-3-carboxamide | 5.0 g | ClCCCNC(=O)C1=NSC2=C1C=CC=C2 | C11H11ClN2OS
reactant | 1-(6-chloro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 5.40 g | Cl.ClC1=CC2=C(C(=NO2)N2CCCCC2)C=C1
reactant | potassium carbonate | 5.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 100 mg | [I-].[Na+]
solvent | N-methylpyrrolidinone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | N-[3-(1-(6-Chloro-1,2-benzisoxazol-3-yl)-4-piperidinyl)propyl]-1,2-benzisothiazole-3-carboxamide hydrochloride | 2.87 g, 29.4% | Cl.ClC1=CC2=C(C(=NO2)N2CCC(CC2)CCCNC(=O)C2=NSC3=C2C=CC=C3)C=C1 | InChI=1S/C23H23ClN4O2S.ClH/c24-16-7-8-17-19(14-16)30-26-22(17)28-12-9-15(10-13-28)4-3-11-25-23(29)21-18-5-1-2-6-20(18)31-27-21;/h1-2,5-8,14-15H,3-4,9-13H2,(H,25,29);1H
